US08084484B2
f) Ethyl 2-(4-amino-3-hydroxyphenyl)propanoate
To the flask was added THF/EtOH (1:1, 30 mL) followed by Ethyl 2-(3-hydroxy-4-nitrophenyl)propanoate (900 mg, 3.76 mmol) and 10% palladium carbon (93 mg) at room temperature. The reaction mixture was hydrogenated and stirred for 1 hrs at 46 psi then filtered through celite bed, and washed with EtOAc. The filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:2) as eluant.

reactant | Ethyl 2-(3-hydroxy-4-nitrophenyl)propanoate | 3.76 mmol, 900 mg | OC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C | C11H13NO5
catalyst | palladium carbon | 93 mg | [C].[Pd]
solvent | THF EtOH | 30 mL | C1CCOC1.CCO
product | Ethyl 2-(4-amino-3-hydroxyphenyl)propanoate | NC1=C(C=C(C=C1)C(C(=O)OCC)C)O | C11H15NO3
